US07696229B2
5. Synthesis of 2-methyl-1,2,3,4-tetrahydroisoquinolin-8-amine
Into a 250 mL 3-necked round bottom flask was added a solution of 5-bromo-2-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline (4.85 g, 17.89 mmol) in CH3OH/Et3N(anhydrous) (150/15 mL). To the mixture was added Pd/C (4.5 g). Hydrogen gas was bubbled into the mixture The resulting solution was allowed to react, with stirring, for 3 hours while the temperature was maintained at room temperature. The reaction progress was monitored by TLC (ethyl acetate/petroleum ether=1:1). A filtration was performed. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. The resulting solution was diluted with 50 mL of Na2CO3 (10%). The resulting solution was extracted four times with 50 mL of ethyl acetate and the organic layers combined and dried over Na2SO4. The residue was purified by eluting through a column with a 50:1 CH2Cl2/MeOH solvent system. This resulted in 2.57 g (89%) of 2-methyl-1,2,3,4-tetrahydroisoquinolin-8-amine as a light yellow oil.

reactant | 5-bromo-2-methyl-8-nitro-1,2,3,4-tetrahydroisoquinoline | 17.89 mmol, 4.85 g | BrC1=C2CCN(CC2=C(C=C1)[N+](=O)[O-])C | C10H11BrN2O2
catalyst | Pd/C | 4.5 g | [Pd] | Pd
product | 2-methyl-1,2,3,4-tetrahydroisoquinolin-8-amine | CN1CC2=C(C=CC=C2CC1)N | C10H14N2
